US05840745
5-phosphonooxy-3-(quinol-4-ylmethylene)-2-oxindole
A mixture of 5-hydroxy-3-(quinol-4-ylmethylene)-2-oxindole (2.883 g, 10 mmol) and phosphoric acid 85% (13 g) and phosphorous pentoxide (10 g) was heated for 2 h at 60° C. The usual work-up gave the title compound in about 50% yield.

reactant | 5-hydroxy-3-(quinol-4-ylmethylene)-2-oxindole | 10 mmol, 2.883 g | OC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C18H12N2O2
reactant | phosphoric acid | 13 g | P(O)(O)(O)=O | H3O4P
reactant | phosphorous pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 5-phosphonooxy-3-(quinol-4-ylmethylene)-2-oxindole | about 50% yield | P(=O)(O)(O)OC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C18H13N2O5P
